US09023847B2
28. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-phenyl)-ethyl]-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 2-(4-methoxyphenyl)ethylamine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 393 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.52 (1H, br. s.) 10.24 (1H, s) 8.14 (0H, t) 8.02 (1H, d, J=5.42 Hz) 7.77 (1H, d, J=5.42 Hz) 7.46 (1H, d, J=5.37 Hz) 7.31 (1H, dd, J=3.34, 2.56 Hz) 7.13 (2H, d, J=8.69 Hz) 6.76-6.84 (3H, m) 6.44 (1H, dd, J=3.49, 1.93 Hz) 3.69 (3H, s) 3.37-3.48 (2H, m) 2.75 (2H, t, J=7.37 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 2-(4-methoxyphenyl)ethylamine | COC1=CC=C(C=C1)CCN | C9H13NO
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-phenyl)-ethyl]-amide | COC1=CC=C(C=C1)CCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H20N4O2S
